US04213985
A solution of 11-(3-chloropropionyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one in dioxane was refluxed for one hour in the presence of an excess of triethylamine to obtain a good yield of 11-(acryloyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one which after crystallization from acetonitrile melted at 235° C. with decomposition.

reactant | 11-(3-chloropropionyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | ClCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C15H12ClN3O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 11-(acryloyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | C(C=C)(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C15H11N3O2
